.SUBCKT LT1636     3   2   7   4   6   5
XOP1 3 2 7 4 6 5 LT1636_MD
** nested subcircuit: LT1636_MD
.SUBCKT LT1636_MD  1 2 3 4 5 8
*
* input range / phase reversal protection
RIP1 1 111 1.0000e+003
RIP2 2 112 1.0000e+003
DIP1 4 111 DX
DIP2 4 112 DX
*
* bias current
IBP 303 0 DC -4.95E-09 
RBP 303 0 1E6 TC=-1.6154E-02 
IBN 304 0 DC -4.85E-09 
RBN 304 0 1E6 TC=-1.4615E-02  
GCV1 0 306 POLY(3) 3 0 1 0 2 0 -0.75E-4 1.0E-4 -0.5E-4 -0.5E-4 
RCV1 306 0 1.0E5 
DCV1 307 306 DX 
DCV2 308 307 DX 
VCV1 308 0 DC -0.35 
RCV2 307 0 1.0E5 
GCV2 0 309 POLY(3) 3 0 1 0 2 0 0.0E-4 1.0E-4 -0.5E-4 -0.5E-4 
RCV3 309 0 1.0E5 
DCV3 310 309 DX 
DCV4 311 310 DX 
VCV2 311 0 DC -0.35 
RCV4 310 0 1.0E5 
GBP 1 99 POLY(3) 303 0 307 0 310 0 0.0 1.0E-6 15.4E-9 2.7E-6 
GBN 2 99 POLY(3) 304 0 307 0 310 0 0.0 1.0E-6 15.8E-9 2.5E-6 
*
* offset voltage
ROFF1 301 0 1.000e+00 TC=-2.0000e-06 
ROFF2 302 0 1.000047e+00 
IOFF1 0 301 DC 1 
IOFF2 0 302 DC 1 
EOFF  114 112 301 302 1 
ROFF3 114 112 1.0000e+09 
*
* common mode rejection
GCM1 0 20 POLY(2) 111 0 112 0 0 5.0000e-04 5.0000e-04 
RCM1 21 0 1.000000e+03 
RCM2 20 0 1.0000e+06 
LCM 20 21 5.3052e-001
ECM 113 111 20 0 3.1623e-006  
RCM3 113 111 1E12 
*
* noise sources
GR 99 60 605 606 9.79e-001
IR1 0 605 DC 1
IR2 0 606 DC 1
DR1 605 0 DR
DR2 606 0 DR
*
* input stage 
CIN 111 112 3.4e-12 
RDIFF 111 112 1.0e+07
GIN 99 10 113 114 0.014265
RCC 10 99 7.0098e+003
C1 10 99 5.6762e-11
DSRP 10 11 DX 
VSRP 11 99 DC 8.3
DSRN 12 10 DX 
VSRN 12 99 DC -5.3
GA 60 99 10 99 0.4e-5 
*
* frequency shaper
RP1 601 99 1.0000e+004
CP1 60 601 3.9789e-010
RP11 60 99 1.0000e+004
GP1 99 61 60 99 1.0000e-004
RP2 61 99 1.0000e+004
CP2 61 99 5.3052e-011
GP2 99 6 61 99 1.0000e-004
*
* output stage
R2 6 99 1.0000e+003
C2 6 7 3.0000e-010
GSW1 6 7 POLY(2) 813 99 6 7 0 0 1e-12 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 2.56e-6
GB 7 99 6 99 2.0103e+004
R01 7 99 2.6390e+002
R02 7 50 1.0000e-001
R03 50 51 1.1307e+002
R04 51 52 2.2933e+001
GSW2 52 5 POLY(2) 812 99 52 5 0 0 1e-9 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 2.56e-6
R05 5 99 5.9379e+009
DOP 50 51 DOUT
DON 51 50 DOUT
VC 53 50 DC 9.9529e-001
VE 54 50 DC -9.7379e-001
DC1 53 55 DX
DC2 55 56 DX
DE1 57 54 DX
DE2 58 57 DX
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
ECLP 91 0 7 50 4.0000e+002
ECLN 92 0 7 50 4.0000e+002
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 1.0992e+001
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
GIP 3 4 POLY(1) 99 812 4.0000e-006 7.8e-006
*
GV 31 0 7 50 1.0000e+001
DP1 3 31 DX
DP2 33 4 DX
RGV 32 33 9.7531
EGV 31 32 POLY(1) 3 4 -0.8 1.0
*
* shutdown stage
RDIS1 4 8 4.5455e+006
CDIS1 8 99 3.0000e-012
GREF 4 801 POLY(2) 3 4 803 99 0.0 1.5674e-004 0.0 0.0 -2.8312e-005
RREF 801 4 1.0000e+003
GDIS 99 803 8 801 1.0000e-003
RDIS3 803 99 1.0000e+005
VDIS2 804 99 DC -7.5600e-001
VDIS3 805 99 DC -4.2450e+000
DDIS2 803 804 DX
DDIS3 805 803 DX
CDIS2 803 99 3.0000e-012
EDIS 810 99 803 99 1.0000e+000
RDIS5 810 812 9.42e+003
RDIS6 812 811 8.9235e+001
DDIS4 810 811 DX
CDIS3 812 99 1.0000e-008
EDIS2 813 99 POLY(1) 812 99 -5.0 -1.0
RDIS7 813 99 1.0000e+006
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL DR D (IS=8.2592e-016 KF=3.2410e-019 RS=0 XTI=0)
.MODEL DOUT D (IS=1.0332e-007 RS=0 XTI=0)
.ENDS LT1636_MD
** end nested subcircuit: LT1636_MD
.ENDS LT1636
